US06211242B1
A solution of N-(2-benzyloxy-4-methylphenyl)-4-nitrobenzamide (4.7 g) in N,N-dimethylformamide (50 ml) was treated with sodium hydride (623 mg, 60% w/w in mineral oil) at 0° C. After 30 minutes, iodomethane (1.21 ml) was added, and the reaction mixture was stirred for 3 hours. The reaction was quenched with water and the mixture diluted with ethyl acetate. The organic phase was washed with water and brine. The organic solution was dried over magnesium sulfate and concentrated to give N-(2-benzyloxy-4-methylphenyl)-N-methyl-4-nitrobenzamide (4.6 g).

reactant | N-(2-benzyloxy-4-methylphenyl)-4-nitrobenzamide | 4.7 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C21H18N2O4
reactant | sodium hydride | 623 mg | [H-].[Na+]
reactant | iodomethane | 1.21 ml | IC | CH3I
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(2-benzyloxy-4-methylphenyl)-N-methyl-4-nitrobenzamide | 4.6 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C22H20N2O4
